US05122523
53.7 mg of (4S,5RS)-3-benzyloxycarbonyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-morpholinoethyl]-4-isobutyloxazolidine was dissolved in 0.8 ml of ethanol, and palladium black was added thereto. Then, hydrogenation was conducted at room temperature at atmospheric pressure. The catalyst was removed by filtration, and the solvent was distilled off to obtain 23 mg of (2RS,3RS,4S)-4-amino-6-methyl-1-morpholino-2,3-heptanediol as colorless oily substance.

reactant | (4S,5RS)-3-benzyloxycarbonyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-morpholinoethyl]-4-isobutyloxazolidine | 53.7 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC(C)C)C(CN1CCOCC1)O)(C)C | C23H36N2O5
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,3RS,4S)-4-amino-6-methyl-1-morpholino-2,3-heptanediol | 23 mg | N[C@H](C(C(CN1CCOCC1)O)O)CC(C)C | C12H26N2O3
